US08053438B2
STEP 2: 2-(3,6-DIHYDRO-2H-THIOPYRAN-4-YL)-4,4,5,5-TETRAMETHYL-1,3,2-DIOXABOROLANE
A mixture of 3,6-dihydro-2H-thiopyran-4-yltrifluoromethanesulfonate (4.5 g, 18.13 mmol), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (6.90 g, 27.2 mmol), potassium acetate (5.34 g, 54.4 mmol), and PdCl2(dppf)2 (1.480 g, 1.813 mmol) in p-dioxane/H2O (10:1, 22 ml) was heated at 100° C. in 24 h, cooled, diluted with EtOAc, washed with H2O, dried over MgSO4, concentrated and purified by ISCO (0-10% EtOAc/Hexanes) to give the yellow oil. MS [M+1]: 227.1.

reactant | 3,6-dihydro-2H-thiopyran-4-yltrifluoromethanesulfonate | 18.13 mmol, 4.5 g | S1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C6H7F3O3S2
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | 27.2 mmol, 6.90 g | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
reactant | potassium acetate | 54.4 mmol, 5.34 g | C(C)(=O)[O-].[K+]
solvent | p-dioxane H2O | 22 ml | O1CCOCC1.O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2(dppf)2 | 1.813 mmol, 1.480 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-(3,6-DIHYDRO-2H-THIOPYRAN-4-YL)-4,4,5,5-TETRAMETHYL-1,3,2-DIOXABOROLANE | S1CCC(=CC1)B1OC(C(O1)(C)C)(C)C | C11H19BO2S
